US05965741
A solution of methyl 2-hydroxy-4-methylbenzoate (19.7 g, 0.119 mole) in pyridine (15 ml) was treated with acetic anhydride (15 ml, 16.23 g, 0.158 mol). The reaction was stirred at ambient temperature overnight and then the solvent evaporated. The residue was dissolved in CH2Cl2 and the solution washed with 2N aqueous HCl, water, saturated aqueous NaHCO3 solution, dried (MgSO4) and evaporated to give methyl 2-acetoxy-4-methylbenzoate which was used without further purification (24.58 g, 99%).

reactant | methyl 2-hydroxy-4-methylbenzoate | 0.119 mole, 19.7 g | OC1=C(C(=O)OC)C=CC(=C1)C | C9H10O3
reactant | acetic anhydride | 0.158 mol, 15 ml, 16.23 g | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 15 ml | N1=CC=CC=C1 | C5H5N
product | methyl 2-acetoxy-4-methylbenzoate | C(C)(=O)OC1=C(C(=O)OC)C=CC(=C1)C | C11H12O4
